US05352705
L-Isoleucine-phenethylamide hydrochloride
Hydrogen chloride gas was bubbled into a solution of N-t-butoxycarbonyl-L-isoleucine-phenethylamide (3.1 g, 9.3 mmol) in EtOAc (200 mL) at -20° C. in a dry ice-acetone bath until TLC (EtOAc: hexane, 1:3) indicated complete loss of starting material. The solution was concentrated to dryness to give 2.5 g (100%) of the title compound, which was used without further purification.

reactant | Hydrogen chloride | Cl | ClH
reactant | N-t-butoxycarbonyl-L-isoleucine-phenethylamide | 9.3 mmol, 3.1 g | C(CC1=CC=CC=C1)NC([C@@H](NC(=O)OC(C)(C)C)[C@@H](C)CC)=O | C19H30N2O3
reactant | hexane | CCCCCC | C6H14
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | L-Isoleucine-phenethylamide hydrochloride | 2.5 g, 100% | Cl.C(CC1=CC=CC=C1)NC([C@@H](N)[C@@H](C)CC)=O | InChI=1S/C14H22N2O.ClH/c1-3-11(2)13(15)14(17)16-10-9-12-7-5-4-6-8-12;/h4-8,11,13H,3,9-10,15H2,1-2H3,(H,16,17);1H/t11-,13-;/m0./s1
